US05459131
4-[(3-Acetylphenyl)sulfonyl]morpholine
A solution of 20.02 g (0.1 mol) of 3-acetylbenzenesulfonyl fluoride and 29 ml of morpholine in 100 mL of THF is stirred at room temperature for 16 hours. The solvent is removed, the residue dissolved in CH2C2, and solution washed with H20 and 2N HCl. The organic layer is dried (MgSO4), the solvent removed, and the residue crystallized from CH2Cl2 -hexane to give 25.2 g (93%) of light yellow crystals, m.p. 144°-147° C.

reactant | 3-acetylbenzenesulfonyl fluoride | 0.1 mol, 20.02 g | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)F | C8H7FO3S
reactant | morpholine | 29 ml | N1CCOCC1 | C4H9NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[(3-Acetylphenyl)sulfonyl]morpholine | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)N1CCOCC1 | C12H15NO4S
